US06727264B1
1-BENZYL-3-TERT-BUTYL-N-(6-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}HEXYL)-1H-PYRAZOLE-5-CARBOXAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 1-benzyl-3-tert-butyl-1H-pyrazole-5-carbonyl chloride: ESMS m/e: 586.3 (M+H)+.

reactant | N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C21H35N3O
reactant | 1-benzyl-3-tert-butyl-1H-pyrazole-5-carbonyl chloride | C(C1=CC=CC=C1)N1N=C(C=C1C(=O)Cl)C(C)(C)C | C15H17ClN2O
solvent | THF | C1CCOC1 | C4H8O
product | 1-BENZYL-3-TERT-BUTYL-N-(6-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}HEXYL)-1H-PYRAZOLE-5-CARBOXAMIDE | C(C1=CC=CC=C1)N1N=C(C=C1C(=O)NCCCCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O)C(C)(C)C | C36H51N5O2
